US05155277
The following were charged into the aqueous phase: undecane, N-oxide, hexane (same quantities as above) and a supplementary amount of acetic acid (0.6 g). The mixture was then heated for 1 hour and the procedure was thereafter as before. Nine conversions were performed in this manner on the same catalytic lower layer. The yields of citral are given in the following table:

reactant | undecane | CCCCCCCCCCC | C11H24
reactant | hexane | CCCCCC | C6H14
reactant | acetic acid | 0.6 g | C(C)(=O)O | C2H4O2
product | citral | CC(C)=CCCC(C)=CC=O | C10H16O
